US04412856
To a solution of 15 g (0.06 mole) of 1-(4-bromophenoxy)-2-diethylaminoethane and 8.2 g (0.062 mole) of 4-methoxyphenylacetylene in 150 ml of triethylamine are added, under nitrogen, 420 mg of the palladium complex PdCl2 [P(C6H5)2 ]2 and 228 mg of copper(I) iodide. The reaction mixture is subsequently refluxed for 24 hours, then concentrated, and the residue is taken up in water. After extraction with 200 ml of ether, the combined ethereal phases are washed 3 times with water, dried and evaporated to dryness. The crude product is chromatographed on silica gel, affording 15.5 g (80%) of 1-[4-(4-methoxyphenylethynyl)phenoxy]-2-diethylaminoethane with a melting point of 59°-60° C.

reactant | 1-(4-bromophenoxy)-2-diethylaminoethane | 0.06 mole, 15 g | BrC1=CC=C(OCCN(CC)CC)C=C1 | C12H18BrNO
reactant | 4-methoxyphenylacetylene | 0.062 mole, 8.2 g | COC1=CC=C(C=C1)C#C | C9H8O
solvent | triethylamine | 150 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium | 420 mg | [Pd] | Pd
catalyst | copper(I) iodide | 228 mg | [Cu]I
product | 1-[4-(4-methoxyphenylethynyl)phenoxy]-2-diethylaminoethane | 15.5 g, 80% | COC1=CC=C(C=C1)C#CC1=CC=C(OCCN(CC)CC)C=C1 | C21H25NO2
